US08383621B2
Step 3: 4-[4-(4-Ethyl-5-fluoro-2-hydroxyphenoxy)-3-fluorobenzoyl]-1-methylpiperazin-2-one
A commercial solution of boron tribromide (1N in DCM, 1.33 mL, 1.32 mmol) was added to a solution of 4-[4-(4-ethyl-5-fluoro-2-methoxyphenoxy)-3-fluorobenzoyl]-1-methylpiperazin-2-one (which may be prepared in accordance with the experimental described in Example 5, step 2; 200 mg, 0.49 mmol) in dichloromethane (1.6 mL) placed under argon at −30° C. The reaction mixture was stirred at room temperature overnight and diluted by addition of dichloromethane (30 mL) and a saturated solution of ammonium chloride (30 mL). After separation, the aqueous layer was extracted with dichloromethane (2×30 mL). The combined organic phases were dried over sodium sulfate, filtered and concentrated under vacuum. The residue was purified by chromatography on silica gel, using dichloromethane/methanol (95:5) as eluent. The title product was obtained as a yellow solid (135 mg, 70%).

reactant | boron tribromide | 1.32 mmol, 1N, 1.33 mL | B(Br)(Br)Br | BBr3
reactant | 4-[4-(4-ethyl-5-fluoro-2-methoxyphenoxy)-3-fluorobenzoyl]-1-methylpiperazin-2-one | C(C)C1=CC(=C(OC2=C(C=C(C(=O)N3CC(N(CC3)C)=O)C=C2)F)C=C1F)OC | C21H22F2N2O4
reactant | ammonium chloride | 30 mL | [Cl-].[NH4+]
solvent | dichloromethane | 1.6 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 4-[4-(4-Ethyl-5-fluoro-2-hydroxyphenoxy)-3-fluorobenzoyl]-1-methylpiperazin-2-one | C(C)C1=CC(=C(OC2=C(C=C(C(=O)N3CC(N(CC3)C)=O)C=C2)F)C=C1F)O | C20H20F2N2O4
